US08138345B2
Preparation of Methyl(4-Methylaminophenyl)acetate
To a stirred solution of methyl(4-formylaminophenyl)acetate (4.31 g) in THF (20.0 mL) at 0° C. was slowly added borane dimethylsulfide (8.61 mL, 90.8 mmol). The reaction mixture was stirred at room temperature overnight and then cooled to 0° C. MeOH (15 mL) was added cautiously and the resulting mixture was stirred for 3 h. The mixture was then concentrated under reduced pressure to give the title compound (4.0 g, 73% yield, 2 steps) as a clear oil.

reactant | methyl(4-formylaminophenyl)acetate | 4.31 g | COC(CC1=CC=C(C=C1)NC=O)=O | C10H11NO3
reactant | borane dimethylsulfide | 90.8 mmol, 8.61 mL | CSC.B
reactant | MeOH | 15 mL | CO | CH4O
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
product | Methyl(4-Methylaminophenyl)acetate | 4.0 g, 73% yield | COC(CC1=CC=C(C=C1)NC)=O | C10H13NO2
